US08110688B2
Synthesis of 8-(2-acetoxyethyl)-7-methoxy-2,2-dimethylchroman-4-one
A solution of 5.79 g (27.5 mmol) of 2-(2-hydroxy-6-methoxyphenyl)ethyl acetate, 3.03 g (30.3 mmol) of 2-methylcrotonic acid and 3.26 g (16.9 mmol) of diphosphorus pentaoxide in 29.0 mL of methanesulfonic acid was heated and stirred at 70° C. for 75 minutes. 50 mL of toluene and 50 mL of water were added therein at room temperature and the mixture was stirred for 5 minutes, and then transferred to a separatory funnel and settled. The aqueous layer was separated and discarded and after the organic layer was washed with 25 mL of 5% sodium hydrogen carbonate aqueous solution and 25 mL of water sequentially, the solvent was evaporated to obtain 7.85 g of the crude title compound. This was purified by silica gel chromatography (developing solution composition: 10% ethyl acetate-hexane (volume ratio), Rf: 0.4), and 2.96 g of the title compound was obtained.

reactant | 2-(2-hydroxy-6-methoxyphenyl)ethyl acetate | 27.5 mmol, 5.79 g | C(C)(=O)OCCC1=C(C=CC=C1OC)O | C11H14O4
reactant | 2-methylcrotonic acid | 30.3 mmol, 3.03 g | C/C(/C(=O)O)=C\C | C5H8O2
reactant | diphosphorus pentaoxide | 16.9 mmol, 3.26 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | 50 mL | O | H2O
solvent | methanesulfonic acid | 29.0 mL | CS(=O)(=O)O | CH4O3S
product | 8-(2-acetoxyethyl)-7-methoxy-2,2-dimethylchroman-4-one | 2.96 g | C(C)(=O)OCCC=1C(=CC=C2C(CC(OC12)(C)C)=O)OC | C16H20O5
